### PR TITLE
Add a mechanisation of System Fsub in "well-scoped" style

### PR DESCRIPTION
**Pull request by Linyxus**
This adds a mechanisation of System Fsub in a home-brewed style which I call "well-scoped" style. The two key ingredients are intrinsically scoped de Bruijn indices for by-construction well-formedness and context morphisms for a uniform infrastructure of context manipulation (weakening, narrowing, substitution, etc). See the entry file for more details.

### CODE REVIEW

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
+/-
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub.lean:1]: Please begin every file with the copyright header.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean [hunk 2]
```diff
@@ -0,0 +1,118 @@
...
+  constructor
+  case tvar =>
+    intro X; cases X
+    case here => exact .here
+    case there_tvar X0 => exact .there_tvar (f.tvar X0)
+  case var =>
+    intro x; cases x
+    case there_tvar x0 => exact .there_tvar (f.var x0)
+
+def Rename.succVar : Rename s1 (s1,x) :=
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean]: I think these structure definitions would be more readable using the `where` syntax.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean [hunk 3]
```diff
@@ -0,0 +1,118 @@
...
+  { var := fun x => f2.var (f1.var x), tvar := fun X => f2.tvar (f1.tvar X) }
+
+theorem Rename.funext {f g : Rename s1 s2}
+  (var : ∀ x, f.var x = g.var x)
+  (tvar : ∀ X, f.tvar X = g.tvar X) : f = g := by
+  cases f; cases g
+  simp
+  constructor
+  { funext x; aesop }
+  { funext X; aesop }
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean]: This can all just be `aesop`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean [hunk 4]
```diff
@@ -0,0 +1,118 @@
...
+
+@[simp]
+theorem Rename.id_liftVar_eq_id : Rename.id.liftVar = (Rename.id (s:=(s,x))) := by
+  apply Rename.funext
+  case var => intro x; cases x <;> rfl
+  case tvar => intro X; cases X; rfl
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Debruijn.lean]: For brevity in simple proofs like this, I'd write something like:
```lean
apply Rename.funext <;> (intro x; cases x) <;> rfl
```
Several places in the code could benefit from this, I won't mark them all individually.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.Syntax
+
+structure Rebind (Γ : Ctx s1) (f : Rename s1 s2) (Δ : Ctx s2) where
+  var : ∀ x T, Ctx.LookupVar Γ x T -> Ctx.LookupVar Δ (f.var x) (T.rename f)
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean]: We try to adhere to the Mathlib style of named hypotheses as opposed to universal quantification.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+  tvar : ∀ X T, Ctx.LookupTVar Γ X T -> Ctx.LookupTVar Δ (f.tvar X) (T.rename f)
+
+def Rebind.liftVar (ρ : Rebind Γ f Δ) : Rebind (Γ,x:T) (f.liftVar) (Δ,x:T.rename f) := by
+  constructor
+  case var =>
+    intro x P hb
+    cases hb
+    case here => simp [<-Ty.rename_succVar_comm]; constructor
+    case there_var hb =>
+      simp [<-Ty.rename_succVar_comm]
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean]: We adhere to the Mathlib style of avoiding non-terminal `simp`. Please update any usage of `simp` in the middle of a proof to be `simp only`. (Note that in the final tactic in a proof or branch, it is fine to use just `simp`.)

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean [hunk 7]
```diff
@@ -0,0 +1,63 @@
...
+    cases hb
+    case there_var hb =>
+      simp [<-Ty.rename_succVar_comm]
+      constructor
+      apply ρ.tvar _ _ hb
+
+def Rebind.liftTVar (ρ : Rebind Γ f Δ) : Rebind (Γ,X<:T) (f.liftTVar) (Δ,X<:T.rename f) := by
+  constructor
+  case tvar =>
+    intro X S hb
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/Core.lean]: Style nit: if a hypothesis name is not used, I would prefer it be introduced as `_`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/TypeSystem.lean [hunk 8]
```diff
@@ -0,0 +1,52 @@
...
+  case top => constructor
+  case refl => constructor
+  case trans =>
+    apply Subtyp.trans <;> aesop
+  case tvar hb =>
+    apply Subtyp.tvar
+    apply ρ.tvar _ _ hb
+  case arrow ih1 ih2 =>
+    apply Subtyp.arrow
+    { apply ih1 ρ }
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/RebindTheory/TypeSystem.lean]: Is this style with `{ ... }` very common? I feel that `⬝` (\cdot) is more readable.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean [hunk 9]
```diff
@@ -0,0 +1,483 @@
...
+    ((var x).rename (Rename.succTVar.lift s0)).subst (σ.liftTVar.lift s0) := by
+  induction s0
+  case empty => rfl
+  case cons_var s0 ih =>
+    cases x
+    case here => rfl
+    case there_var x0 =>
+      conv => lhs; simp [Subst.lift, Exp.subst]
+      conv => lhs; simp [Subst.liftVar, Rename.lift]
+      simp [<-Exp.rename_succVar_comm]
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean]: You have several places where you use `<-` instead of `←`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean [hunk 10]
```diff
@@ -0,0 +1,483 @@
...
+
+theorem Exp.subst_comp {e : Exp s1} (σ1 : Subst s1 s2) (σ2 : Subst s2 s3) :
+  (e.subst σ1).subst σ2 = e.subst (σ1.comp σ2) := by
+  induction e generalizing s2 s3
+  case var x => rfl
+  case abs A t ih =>
+    simp [Exp.subst]
+    simp [Ty.subst_comp]
+    simp [Subst.liftVar_comp]
+    simp [ih]
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean]: Consecutive lines of `simp` should be combined.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean [hunk 11]
```diff
@@ -0,0 +1,483 @@
...
+  case tabs A t ih =>
+    simp [Exp.subst, Exp.rename, Ty.subst_asSubst]
+    simp [Rename.asSubst_liftTVar_comm]
+    simp [ih]
+  case app t1 t2 ih1 ih2 =>
+    simp [Exp.subst, Exp.rename, ih1, ih2]
+  case tapp t A ih =>
+    simp [Exp.subst, Exp.rename, Ty.subst_asSubst]
+    simp [ih]
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean]: Proof like this with similar finishing `simp` sets can be combined, i.e.
```lean
 theorem Exp.subst_asSubst {e : Exp s1} {f : Rename s1 s2} :
   e.subst f.asSubst = e.rename f := by
   induction e generalizing s2
   case var => rfl
   all_goals simp_all [subst, rename, Ty.subst_asSubst, Rename.asSubst_liftVar_comm, Rename.asSubst_liftTVar_comm]
```

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean [hunk 12]
```diff
@@ -0,0 +1,483 @@
...
+
+theorem Subst.open_tvar_rename_comm {T : Ty s} {f : Rename s s'} :
+  (Subst.open_tvar T).comp (f.asSubst)
+    = f.liftTVar.asSubst.comp (Subst.open_tvar (T.rename f)) := by
+  apply Subst.funext
+  case var =>
+    intro x
+    cases x
+    case there_tvar x0 => rfl
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution/Properties.lean]: No need for `case` if the branch is just `rfl`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Syntax/Context.lean [hunk 13]
```diff
@@ -0,0 +1,32 @@
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.Syntax.Core
+
+inductive Ctx : Sig -> Type where
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Syntax/Context.lean]: Please use `→` instead of "->".

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Syntax/Core.lean [hunk 14]
```diff
@@ -0,0 +1,74 @@
...
+| top : Ty s
+| tvar : TVar s -> Ty s
+| arrow : Ty s -> Ty s -> Ty s
+| poly : Ty s -> Ty (s,X) -> Ty s
+
+def Ty.rename : Ty s1 -> Rename s1 s2 -> Ty s2
+| .top, _ => .top
+| .tvar X, ρ => .tvar (ρ.tvar X)
+| .arrow A B, ρ => .arrow (A.rename ρ) (B.rename ρ)
+| .poly A B, ρ => .poly (A.rename ρ) (B.rename ρ.liftTVar)
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Syntax/Core.lean]: These `.` are not needed here.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean [hunk 15]
```diff
@@ -0,0 +1,352 @@
...
+  case refl => left; aesop
+  case poly => left; aesop
+  case trans ih1 _ ih2 =>
+    specialize ih2 rfl
+    cases ih2
+    case inl ih2 =>
+      aesop
+    case inr ih2 =>
+      cases ih2
+      rename_i hsub _
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean]: I would prefer we avoid using `rename_i`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean [hunk 16]
```diff
@@ -0,0 +1,352 @@
...
+      have heq := Subtyp.top_inv hsub
+      aesop
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean]: No need to name this if it's only used by `aesop`. Personally, I would prefer:
```lean
right
exact Subtyp.top_inv hsub
```

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean [hunk 17]
```diff
@@ -0,0 +1,352 @@
...
+
+theorem Subtyp.arrow_inv
+  (hsub : Subtyp Γ (.arrow T1 U1) (.arrow T2 U2)) :
+  Subtyp Γ T2 T1 ∧ Subtyp Γ U1 U2 := by
+  generalize he1 : Ty.arrow T1 U1 = P1 at hsub
+  generalize he2 : Ty.arrow T2 U2 = P2 at hsub
+  induction hsub <;> cases he1 <;> cases he2
+  case refl => constructor <;> apply Subtyp.refl
+  case trans hs1 ih1 hs2 ih2 =>
+    have := Subtyp.arrow_inv_left hs1
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Canonical.lean]: In a few places you construct something with have, then immediately uses `cases`. I would just use `cases` directly, e.g. `cases (Subtyp.arrow_inv_left hs1)`.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Preservation.lean [hunk 18]
```diff
@@ -0,0 +1,42 @@
...
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.TypeSoundness.Canonical
+
+theorem preservation
+  (ht : HasType .empty t T)
+  (hred : Reduce t t') :
+  HasType .empty t' T := by
+  induction hred generalizing T
+  case red_app_fun ih =>
+    have ⟨T1, T2, ht1, ht2, hs0⟩ := HasType.app_inv ht
+    have ih := ih ht1
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Preservation.lean]: You only use this once, I would just inline it for brevity.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Preservation.lean [hunk 19]
```diff
@@ -0,0 +1,42 @@
...
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.RetypeTheory.TypeSystem
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.TypeSoundness.Canonical
+
+theorem preservation
+  (ht : HasType .empty t T)
+  (hred : Reduce t t') :
+  HasType .empty t' T := by
+  induction hred generalizing T
+  case red_app_fun ih =>
+    have ⟨T1, T2, ht1, ht2, hs0⟩ := HasType.app_inv ht
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/TypeSoundness/Preservation.lean]: Many of these names are not used.

File: Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution.lean [hunk 20]
```diff
@@ -0,0 +1,2 @@
+import Cslib.Computability.LambdaCalculus.WellScoped.FSub.Substitution.Core
```
Comment (chenson2018) [inline Cslib/Computability/LambdaCalculus/WellScoped/FSub/Substitution.lean:14]: I'm not sure that this style of reexports is necessary, do you have any thoughts @fmontesi?

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I have left review comments mostly pertaining to style and making proofs more compact. I think `grind` would help here, but do not consider it a blocking requirement.

As I mentioned on the Zulip, the biggest thing we do require is documentation, ideally for every theorem, definition, and inductive.

**Comment by Linyxus** [comment]
Thanks @chenson2018 a lot for your reviews! My bandwidth is a bit jammed recently so I didn't improve the documentation as promised. I will get back to it, addressing the reviews, improving docs and compacting proofs ASAP.

**Comment by Linyxus** [comment]
I have populated the files and definitions with documentation, and addressed most of the comments (except for those I didn't mark as resolved). Thanks again for these feedbacks!

**Comment by Linyxus** [comment]
regarding paper references for this approach, I believe the one used by [AutoSubst2](https://www.ps.uni-saarland.de/Publications/documents/StarkEtAl_2018_Autosubst-2_.pdf) is really close.

**Comment by chenson2018** [comment]
Thanks for addressing the review comments. I will take a look again this week. Regarding your comment:

> regarding paper references for this approach, I believe the one used by [AutoSubst2](https://www.ps.uni-saarland.de/Publications/documents/StarkEtAl_2018_Autosubst-2_.pdf) is really close.

I have also been looking at porting some formalization in the Autosubst2 style to Lean. I think what we may want to do is first add well-scoped STLC. This may make this PR take a little more time, but ensure we end up with consistency between them. (I am not asking you to do this, I will write it).

**Comment by Linyxus** [comment]
Sure! I just finished a draft on a tutorial of this "well-scoped" approach and am putting it on arXiv. Can be an interesting reference too for this PR.

Regarding autosubst2, I think another thing that is really interesting & valuable to have is a "port" of it in Lean (or something like it that generates boilerplates). I have repeated the boilerplate of this approach for various calculi and am a bit tired of it. 😂 I can image such a tool will be a hyper productivity boost.

**Comment by chenson2018** [comment]
> Regarding autosubst2, I think another thing that is really interesting & valuable to have is a "port" of it in Lean (or something like it that generates boilerplates). I have repeated the boilerplate of this approach for various calculi and am a bit tired of it. 😂 I can image such a tool will be a hyper productivity boost.

Yes, I agree! I have been thinking this over for a while actually. Regarding the implementation, I think because of Lean's metaprogramming features, we could natively write something that looks like the MetaCoq implementation of Austosubst2. (I've also been tossing around the idea of if features like attributes could change the user interface for the better)

I am currently auditing a semantics course using Autosubst2 and was planning to try to follow along with making a Lean port. When I have the start of something I'll ping you for your thoughts!

**Comment by Linyxus** [comment]
Any updates on this front?

**Comment by fmontesi** [comment]
@chenson2018 do you think this is mergeable?

My only comment is on the use of `Core`, shouldn't that be `Basic`? We haven't really settled on a real guideline yet, but it seems that most use `Defs` (if it contains only definition-related stuff) or `Basic` (as a sort of more general name).

**Comment by chenson2018** [comment]
@fmontesi I have some concerns with how this will fit into the library as a whole, as I would like to mirror the locally nameless formalization where we share infrastructure between STLC and System F. It would be better to start with a base of STLC. I consider this especially important for well-scoped syntax because I anticipate/hope this more "modern" style will attract more contributions.

I am not too far, but I have started the corresponding STLC formalization. What I would like to do is finish this then return to this PR and adapt to whatever general structure we have set up. I have been a bit busy, but I can commit to this being done in the coming month.
